US06156757
A mixture of 3-hydroxymethyl-piperidine (0.6 mol) and Na2CO3 (130 g) in CHCl3 (600 ml) and water (600 ml) was stirred at 10° C. Ethyl chloroformate (115 g) was added dropwise (temperature was kept at 10° C.). The mixture was stirred until the temperature reached room temperature and the reaction mixture was stirred overnight. Water (500 ml) was added. The organic layer was separated, washed with water, dried, filtered and the solvent was evaporated, yielding 110 g (98%) of (±)-ethyl 3-(hydroxymethyl)-1-piperidinecarboxylate (interm. 17).

reactant | 3-hydroxymethyl-piperidine | 0.6 mol | OCC1CNCCC1 | C6H13NO
reactant | Na2CO3 | 130 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Ethyl chloroformate | 115 g | ClC(=O)OCC | C3H5ClO2
solvent | CHCl3 | 600 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 600 ml | O | H2O
solvent | Water | 500 ml | O | H2O
product | (±)-ethyl 3-(hydroxymethyl)-1-piperidinecarboxylate | 110 g, 98% | OCC1CN(CCC1)C(=O)OCC | C9H17NO3
